US07994185B2
Intermediate 39: 5-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline
To a solution of 2-propen-1-yl {5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate (35 g, 78.4 mmol) in DCM (400 mL), HOAc (11.3 g, 188 mmol), Pd(PPh3)2Cl2 (1.1 g, 1.57 mmol) were added. Then tri-n-butyl tin hydride (34.2 g, 117 mmol) was added dropwise to the mixture at 0° C. The mixture was stirred at rt for 30 min. The reaction was quenched by added the saturated NaHCO3 (400 mL) slowly. The two layers were separated. The aqueous layer was extracted with DCM (500 mL×2). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was washed with petroleum ether (200 mL) to afford the title compound (18.3 g, 64.4% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.31 (d, J=5.5 Hz, 1H), 6.96-7.03 (m, 3H), 6.78-6.83 (m, 1H), 2.30-2.60 (br, 2H), 1.48 (s, 9H).

reactant | 2-propen-1-yl {5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}carbamate | 78.4 mmol, 35 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=CC(=C(C1)NC(OCC=C)=O)F | C21H20ClFN4O2S
reactant | HOAc | 188 mmol, 11.3 g | CC(=O)O | C2H4O2
reactant | tri-n-butyl tin hydride | 117 mmol, 34.2 g | C(CCC)[SnH](CCCC)CCCC
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 1.57 mmol, 1.1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-[5-(2-Chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluoroaniline | 18.3 g, 64.4% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=CC(=C(N)C1)F | C17H16ClFN4S
